* D:\nacho\Generador de ruido\Simus\Draft1.asc
R1 N001 N006 8
V1 N001 0 12
C1 N001 0 470µ
R2 N001 N002 1k
Q1 N001 N002 N003 0 BC337-40
Q2 N004 N009 0 0 NPN
Q3 0 N004 N007 0 BC327-40
R3 N003 N005 0.47
R4 N005 N007 0.47
R5 N002 N004 150
C2 N004 N009 47p
R6 N004 N009 12k
R7 N009 0 1800
V2 N008 0 SINE(0 3 2k)
C3 N006 N005 470µ V=50 Irms=1.8 Rser=0.045 Lser=7n mfg="Würth Elektronik" pn="860040675011 WCAP-ATUL 10x30" type="Al electrolytic"
C4 N009 N008 10n
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran .001
.backanno
.end
